US07741341B2
30 mg (0.058 mmol) 1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-benzoimidazole-4-carboxylic acid methyl ester were dissolved in 3 mL dichloromethane and cooled to 0° C. 234 μl of a 1 M BBr3-solution (4 equiv.) in dichloromethane were carefully added and the resulting mixture was stirred at room temperature for 16 h. Under cooling 3 mL water were added dropwise followed by the addition of 0.7 mL of a 1 M NaOH-solution. The mixture was concentrated under reduced pressure. Purification by preparative HPLC (CH3CN/H2O gradient+0.05% formic acid) gave pure 1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-benzoimidazole-4-carboxylic acid. The corresponding dihydrochloride was obtained by treatment of the product with a 0.1 M HCl-solution and following lyophilization. Yield: 26 mg MS (ES+): m/e=499, chloro pattern.

reactant | 1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-benzoimidazole-4-carboxylic acid methyl ester | 0.058 mmol, 30 mg | COC(=O)C1=CC=CC=2N(C(=NC21)C(NC2CCN(CC2)C(C)C)=O)CC(NC2=NC=C(C=C2)Cl)=O | C25H29ClN6O4
reactant | BBr3 | 1 M, 4 equiv. | B(Br)(Br)Br | BBr3
reactant | water | 3 mL | O | H2O
reactant | NaOH | 1 M | [OH-].[Na+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-benzoimidazole-4-carboxylic acid | ClC=1C=CC(=NC1)NC(=O)CN1C(=NC2=C1C=CC=C2C(=O)O)C(NC2CCN(CC2)C(C)C)=O | C24H27ClN6O4
